US04377522
16 g (0.049 mol) of 7-amino-5-(o-chlorophenyl)-1,3-dihydro-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one in 160 ml of glacial acetic acid are treated slowly while stirring with 8.5 g of bromine in 10 ml of glacial acetic acid. After 60 minutes at room temperature, the reaction mixture is concentrated and the residue is partitioned between aqueous ammonia and methylene chloride. The aqueous phase is extracted several times more with methylene chloride. The combined organic extracts are dried and evaporated. The crude product is purified on 500 g of silica gel with methylene chloride/ethyl acetate (5:1) as the elution agent. From ethyl acetate/ether there is obtained 7-amino-6-bromo-5-(o-chlorophenyl)-1,3-dihydro-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one of melting point 188°-189°.

reactant | 7-amino-5-(o-chlorophenyl)-1,3-dihydro-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one | 0.049 mol, 16 g | NC=1C=CC2=C(C(=NC(C(N2C)=O)(C)C)C2=C(C=CC=C2)Cl)C1 | C18H18ClN3O
reactant | bromine | 8.5 g | BrBr | Br2
solvent | acetic acid | 160 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 7-amino-6-bromo-5-(o-chlorophenyl)-1,3-dihydro-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one | NC=1C=CC2=C(C(=NC(C(N2C)=O)(C)C)C2=C(C=CC=C2)Cl)C1Br | C18H17BrClN3O
